US06908913B2
A solution of 2.49 g of 5-bromo-3-(t-butyldimethylsilyloxymethyl)pyridine in 25 ml of dry diethyl ether was cooled to −85° C. under an argon atmosphere, and 5.56 ml of a 1.57 N n-butyllithium/hexane solution was added dropwise to the cooled solution over a period of 10 min. The mixture was stirred at that temperature for 30 min, and a solution of 881 mg of 7-formylimidazo[5,1-b]thiazole in 20 ml of dry THF was then added thereto, followed by further mixing at the same temperature for 30 min. Water was added to the reaction solution. The mixture was extracted three times with chloroform. The organic layer was dried over anhydrous magnesium sulfate and was then concentrated under the reduced pressure. The residue was purified by column chromatography on silica gel (ethyl acetate:methanol=10:1) to give 803 mg of 7-[[5-(t-butyldimethylsilyloxymethyl)pyridin-3-yl]hydroxymethyl]imidazo[5,1-b]thiazole.

reactant | 5-bromo-3-(t-butyldimethylsilyloxymethyl)pyridine | 2.49 g | BrC=1C=C(C=NC1)CO[Si](C)(C)C(C)(C)C | C12H20BrNOSi
reactant | n-butyllithium hexane | 1.57 N | C(CCC)[Li].CCCCCC
reactant | 7-formylimidazo[5,1-b]thiazole | 881 mg | C(=O)C=1N=CN2C1SC=C2 | C6H4N2OS
reactant | Water | O | H2O
solvent | diethyl ether | 25 ml | C(C)OCC | C4H10O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 7-[[5-(t-butyldimethylsilyloxymethyl)pyridin-3-yl]hydroxymethyl]imidazo[5,1-b]thiazole | 803 mg | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C=NC1)C(C=1N=CN2C1SC=C2)O | C18H25N3O2SSi
